US06448281B1
(S)-5-Hydroxytryptophan Amide
(S)-5-Hydroxytryptophan methyl ester hydrochloride (0.247 g, 0.91 mmol) was stirred overnight at room temperature in ammonium hydroxide (10 mL). After removal of volatiles under vacuum, the title compound of example 44 was obtained as a dark solid.

reactant | (S)-5-Hydroxytryptophan methyl ester hydrochloride | 0.91 mmol, 0.247 g | Cl.COC([C@@H](N)CC1=CNC2=CC=C(C=C12)O)=O
reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
product | (S)-5-Hydroxytryptophan Amide | OC1=CC=C2NC=C(C[C@H](N)C(=O)N)C2=C1 | C11H13N3O2
